2198-11-23 05:25:00 Physician Resident Progress Note
TITLE:
   Chief Complaint:
   24 Hour Events:
   Pt did well o/n.  No SOB, CP.  Groin pain moderately controlled.
   Allergies:
   Latex
   Rash; related t
   Last dose of Antibiotics:
   Infusions:
   Other ICU medications:
   Other medications:
   Changes to medical and family history:
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Flowsheet Data as of  [**2198-11-23**] 05:23 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 36.7
C (98
   Tcurrent: 36.7
C (98
   HR: 62 (60 - 89) bpm
   BP: 92/53(62) {84/36(47) - 110/83(88)} mmHg
   RR: 12 (11 - 18) insp/min
   SpO2: 95%
   Heart rhythm: SR (Sinus Rhythm)
   Height: 60 Inch
   Tele: 60s, apnea
   Total In:
                                                                    432 mL
                                                                    583 mL
   PO:
                                                                    180 mL
                                                                    180 mL
   TF:
   IVF:
                                                                    252 mL
                                                                    403 mL
   Blood products:
   Total out:
                                                                    585 mL
                                                                    111 mL
   Urine:
                                                                    585 mL
                                                                    111 mL
   NG:
   Stool:
   Drains:
   Balance:
                                                                   -153 mL
                                                                    472 mL
   Respiratory support
   O2 Delivery Device: None
   SpO2: 95%
   ABG: ///26/
   Physical Examination
   GENERAL: Lying in bed in NAD. Oriented x3. Mood, affect appropriate.
   HEENT: NCAT. Sclera anicteric. PERRL, EOMI. Conjunctiva were pink, no
   pallor or cyanosis of the oral mucosa. No xanthalesma.
   CARDIAC: RR, normal S1, S2. No m/r/g. No thrills, lifts. S4.
   Prior sternal wound noted but well-healed.
   LUNGS: Resp were unlabored, no accessory muscle use. CTAB, no crackles,
   wheezes or rhonchi.
   ABDOMEN: Soft.  Is TTP over right groin with extension into lower
   pelvis and to midline, now also to LLQ.  Hematoma appears overall with
   minimal change.
   EXTREMITIES: No c/c/e. No femoral bruits.
   SKIN: No stasis dermatitis, ulcers, scars, or xanthomas.
   PULSES:
   Right: Carotid 2+ Femoral 2+ DP 2+ PT 2+
   Left: Carotid 2+ Femoral 2+ DP 2+ PT 2+
   Labs / Radiology
   224 K/uL
   10.3 g/dL
   105 mg/dL
   0.7 mg/dL
   26 mEq/L
   4.0 mEq/L
   14 mg/dL
   107 mEq/L
   139 mEq/L
   29.5 %
   5.7 K/uL
        [image002.jpg]
                             [**2198-11-22**]  10:30 PM
                             [**2198-11-23**]  03:07 AM
   WBC
   5.7
   Hct
   33.3
   29.5
   Plt
   224
   Cr
   0.7
   Glucose
   105
   Other labs: PT / PTT / INR:12.4/23.9/1.0, Ca++:8.0 mg/dL, Mg++:1.9
   mg/dL, PO4:3.7 mg/dL
   Assessment and Plan
   62F with a history of CAD, s/p CABG for severe LM disease who presented
   today for cardiac, now being transferred to the CCU given worry for
   post-cath bleeding.
   .
   # HEMATOMA:  CT showed moderately large hematoma with no RPB.  Pt. w/
   dropping SBPs into 80s w/ HCT down to 29.5.  Likely continuing to bleed
   given dropping HCT and increasing abdominal pain on exam, although no
   visible extension of hematoma.
   - IVF bolus 500cc, then 1L at 100cc/hr now
   - Will hold Plavix as no stent in PCI
   - Will give one unit of RBCs, recheck HCT and give another unit
   thereafter.
   - HCT Q6H
   - Repeat CT STAT to assess for change in hematoma size.
   - Serial exams
   - Call Vascular surgery to assess for possible open intervention.
   - Monitor vitals
   - Holding b-blocker
   # CORONARIES:  Known 3VD with prior CABG.  After ETT showed apical
   ischemia and a hypokinetic septum, performed for progressive dyspnea,
   underwent cardiac cath today which showed patent grafts with no
   interventions performed.
   - Continue with aspirin, statin
   - Will hold beta-blocker
   # PUMP:  EF of 60% on MIBI done last month.  Not currently in failure.
   # RHYTHM:  In sinus rhythm.
   # HYPOTHYRODISIM:  Levothyroxine
   FEN:  Cardiac diet
   ACCESS: PIV's
   PROPHYLAXIS:
   -DVT ppx with pneumotic boots
   -Pain managment with tylenol PRN
   -Bowel regimen
   CODE: DNR/DNI; discussed with patient at time of transfer
   DISPO: CCU
   Contact person upon discharge:  [**Name (NI) 484**] [**Name (NI) 2093**] (husband): [**Telephone/Fax (1) 6880**]
   ICU Care
   Nutrition:
   Glycemic Control:
   Lines:
   20 Gauge - [**2198-11-22**] 08:35 PM
   Prophylaxis:
   DVT:
   Stress ulcer:
   VAP:
   Comments:
   Communication:  Comments:
   Code status: Full code
   Disposition:

2198-11-24 05:54:00 Physician Resident Progress Note
TITLE:
   Chief Complaint:
   62F with a history of CAD, s/p CABG for severe LM disease who underwent
   a cardiac catheterization and was admitted to the CCU due to post-cath
   bleeding, found to have a pseudoaneurysm of the femoral artery, now s/p
   surgical removal.
   24 Hour Events:
   Plavix was stopped yesterday due to her bleeding risk. Patient had low
   SBPs in the 80's in the morning, was given 2 units PRBC and IVF and her
   pressures came up to the 100s.  Had Hct increase to 32 with2 units of
   blood.  Repeat abd CT/pelvis showed improvement of the size of the
   hematoma and no new suspicious areas to explain the patient's low BP.
   Vascular saw the patient and wanted a US to rule out aneurysm and the
   US showed a 2.2 cm pseudoaneurysm of the right common femoral artery
   near the site of the puncture.  There was also a thrombus seen in the
   right common femoral vein.  The patient was taken to surgery overnight
   where the psuedoaneurysm was removed and her hematoma was evacuated.
   She was started on a heparin gtt for the thrombus.  As her Hct
   decreased to 26 on recheck, she was given 1 unit PRBC overnight.
   This am she reports some burning at the site of surgery.  Denies chest
   pain, SOB, dizziness.
   Allergies:
   Latex
   Rash; related t
   Last dose of Antibiotics:
   Infusions:
   Heparin Sodium - 1,450 units/hour
   Other ICU medications:
   Morphine Sulfate - [**2198-11-23**] 11:30 PM
   Other medications:
   Changes to medical and family history:
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Flowsheet Data as of  [**2198-11-24**] 05:51 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 37.8
C (100
   Tcurrent: 37.7
C (99.8
   HR: 84 (62 - 85) bpm
   BP: 98/50(61) {88/31(49) - 151/95(100)} mmHg
   RR: 14 (7 - 19) insp/min
   SpO2: 96%
   Heart rhythm: SR (Sinus Rhythm)
   Height: 60 Inch
          Total In:
                                                                  2,428 mL
                                                                    573 mL
   PO:
                                                                    280 mL
                                                                    200 mL
   TF:
   IVF:
                                                                  1,868 mL
                                                                     62 mL
   Blood products:
                                                                    280 mL
                                                                    311 mL
   Total out:
                                                                  1,271 mL
                                                                    405 mL
   Urine:
                                                                  1,021 mL
                                                                    280 mL
   NG:
   Stool:
   Drains:
   125 mL
   Balance:
                                                                  1,157 mL
                                                                    168 mL
   Respiratory support
   O2 Delivery Device: None
   SpO2: 96%
   ABG: ///24/
   Physical Examination
   GENERAL: Middle-aged female lying in bed in NAD. Oriented x3. Mood,
   affect appropriate.
   HEENT: NCAT. Sclera anicteric. OP clear
   CARDIAC: RRR, no MRG
   Prior sternal wound noted but well-healed.
   LUNGS: Patient was breathing comfortably, CTAB
   ABDOMEN: +BS, soft in her upper abdomen, firmness present in her lower
   abdomen with  TTP over right groin with extension into lower pelvis and
   to midline as well as the LLQ.  Hematoma appears overall with minimal
   change.
   Groin:  The right groin has a blood-soaked bandage, stapled wound does
   not appear to be actively bleeding under the bandage.  Tender to
   palpation in her groin.
   EXTREMITIES: No c/c/e. No femoral bruits.
   SKIN: No stasis dermatitis, ulcers, scars, or xanthomas.
   PULSES:
   Right: Carotid 2+ Femoral 2+ DP 2+ PT 2+
   Left: Carotid 2+ Femoral 2+ DP 2+ PT 2+
   Labs / Radiology
   162 K/uL
   8.7 g/dL
   114 mg/dL
   0.6 mg/dL
   24 mEq/L
   3.8 mEq/L
   10 mg/dL
   107 mEq/L
   139 mEq/L
   26.3 %
   6.1 K/uL
        [image002.jpg]
                             [**2198-11-22**]  10:30 PM
                             [**2198-11-23**]  03:07 AM
                             [**2198-11-23**]  06:27 AM
                             [**2198-11-23**]  12:49 PM
                             [**2198-11-23**]  11:24 PM
                             [**2198-11-24**]  01:08 AM
   WBC
   5.7
   6.1
   Hct
   33.3
   29.5
   29.4
   32.9
   25.1
   26.3
   Plt
   224
   162
   Cr
   0.7
   0.5
   0.6
   Glucose
   105
   105
   114
   Other labs: PT / PTT / INR:13.8/140.2/1.2, Differential-Neuts:81.0 %,
   Lymph:14.7 %, Mono:2.3 %, Eos:1.9 %, Ca++:6.7 mg/dL, Mg++:1.6 mg/dL,
   PO4:1.8 mg/dL
   Assessment and Plan
   62F with a history of CAD, s/p CABG for severe LM disease who underwent
   a cardiac catheterization and was admitted to the CCU due to post-cath
   bleeding, found to have a pseudoaneurysm of the femoral artery, now s/p
   surgical removal.
   # HEMATOMA/PSEUDOANEURYSM:  Patient was found to have a 2.2 cm
   pseudoaneurysm on US last night and went to the OR for removal of the
   aneurysm and evacuation of the hematoma.  Repeat US this am showed
   continue thrombus in the common right femoral vein.  Hct at 29.7 (from
   26.3) after a unit of blood overnight (she received a total of 3 units
   of PRBC yesterday).  Patient started on a heparin gtt overnight given
   thrombus.
   - Continue heparin gtt for thrombus.
   - F/u final US read.
   - Will hold Plavix as no stent in PCI
   - Recheck Hct this evening
   - Appreciate vascular consult, will f/u recs.
   - Holding b-blocker until her Hct is stable
   # CORONARIES:  Known 3VD with prior CABG.  After ETT showed apical
   ischemia and a hypokinetic septum, performed for progressive dyspnea,
   underwent cardiac cath today which showed patent grafts and had a POBA
   to the distal LAD.
   - Continue aspirin and statin
   - Will hold beta-blocker until her Hct have stabilized.
   # PUMP:  EF of 60% on MIBI done last month.  Not currently in failure.
   # RHYTHM:  In sinus rhythm.
   # HYPOTHYRODISIM:  Continue levothyroxine
   FEN:  Cardiac diet
   ACCESS: PIV's
   PROPHYLAXIS:
   -DVT ppx with pneumatic boots
   -Pain management with tylenol PRN
   -Bowel regimen
   CODE: DNR/DNI; discussed with patient at time of transfer
   DISPO: CCU
   Contact person upon discharge:  [**Name (NI) 484**] [**Name (NI) 2093**] (husband): [**Telephone/Fax (1) 6880**]
   ICU Care
   Nutrition:
   Glycemic Control:
   Lines:
   20 Gauge - [**2198-11-22**] 08:35 PM
   22 Gauge - [**2198-11-23**] 11:45 AM
   18 Gauge - [**2198-11-23**] 11:32 PM
   Prophylaxis:
   DVT:
   Stress ulcer:
   VAP:
   Comments:
   Communication:  Comments:
   Code status: Full code
   Disposition:

2198-11-25 05:15:00 Physician Resident Progress Note
TITLE:
   Chief Complaint:
   24 Hour Events:
 ULTRASOUND - At [**2198-11-24**] 09:00 AM
   Overnight [**Date range (1) 6895**], pt had vascular repair of pseudoanuerysm.  Had U/S
   yesterday morning showing no pseudoaneurysm but thrombus in R CFV.
   Continued oozing from operative site with stable HCTs with
   supratherapeutic INRs.  Vascular aware.  Overnight, pt received 500cc
   bolus for BP in the 70s, BP responded.  AM HCT 21.5.
   Pt getting 2 units PRBCs now.  Otherwise asymptomatic without chest
   pain, SOB, lightheadedness.
   Allergies:
   Latex
   Rash; related t
   Last dose of Antibiotics:
   Infusions:
   Heparin Sodium - 750 units/hour
   Other ICU medications:
   Other medications:
   Changes to medical and family history:
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Flowsheet Data as of  [**2198-11-25**] 05:13 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 37.2
C (99
   Tcurrent: 37.2
C (99
   HR: 96 (76 - 103) bpm
   BP: 109/51(64) {78/22(38) - 122/67(78)} mmHg
   RR: 14 (10 - 26) insp/min
   SpO2: 93%
   Heart rhythm: SR (Sinus Rhythm)
   Height: 60 Inch
             Total In:
                                                                  2,702 mL
                                                                     39 mL
   PO:
                                                                    540 mL
             TF:
   IVF:
                                                                  1,787 mL
                                                                     39 mL
   Blood products:
                                                                    375 mL
   Total out:
                                                                  1,260 mL
                                                                    200 mL
   Urine:
                                                                    785 mL
                                                                    200 mL
   NG:
                                                                    300 mL
   Stool:
   Drains:
                                                                    175 mL
   Balance:
                                                                  1,442 mL
                                                                   -161 mL
   Respiratory support
   O2 Delivery Device: None
   SpO2: 93%
   ABG: ///24/
   Physical Examination
   GENERAL: Middle-aged female lying in bed in NAD. Oriented x3. Mood,
   affect appropriate.
   HEENT: NCAT. Sclera anicteric. OP clear
   CARDIAC: RRR, no MRG
   Prior sternal wound noted but well-healed.
   LUNGS: Patient was breathing comfortably, CTAB
   ABDOMEN: +BS, soft in her upper abdomen, firmness present in her lower
   abdomen with  TTP over right groin with extension into lower pelvis and
   to midline as well as the LLQ.  Hematoma appears overall with minimal
   change.
   Groin:  The right groin with bandage that is clean and dry. Stapled
   wound does not appear to be actively bleeding under the bandage.
   Tender to palpation in her groin.
   EXTREMITIES: No c/c/e. No femoral bruits.
   SKIN: No stasis dermatitis, ulcers, scars, or xanthomas.
   Labs / Radiology
   170 K/uL
   7.4 g/dL
   121 mg/dL
   0.6 mg/dL
   24 mEq/L
   4.3 mEq/L
   11 mg/dL
   106 mEq/L
   136 mEq/L
   21.5 %
   4.7 K/uL
        [image002.jpg]
                             [**2198-11-22**]  10:30 PM
                             [**2198-11-23**]  03:07 AM
                             [**2198-11-23**]  06:27 AM
                             [**2198-11-23**]  12:49 PM
                             [**2198-11-23**]  11:24 PM
                             [**2198-11-24**]  01:08 AM
                             [**2198-11-24**]  08:14 AM
                             [**2198-11-24**]  12:33 PM
                             [**2198-11-24**]  08:47 PM
                             [**2198-11-25**]  04:21 AM
   WBC
   5.7
   6.1
   5.6
   4.7
   Hct
   33.3
   29.5
   29.4
   32.9
   25.1
   26.3
   29.7
   28.3
   26.8
   21.5
   Plt
   [**Telephone/Fax (3) 6901**]70
   Cr
   0.7
   0.5
   0.6
   0.5
   0.6
   Glucose
   105
   105
   114
   62
   121
   Other labs: PT / PTT / INR:13.1/58.2/1.1, Differential-Neuts:81.0 %,
   Lymph:14.7 %, Mono:2.3 %, Eos:1.9 %, Albumin:3.3 g/dL, Ca++:6.7 mg/dL,
   Mg++:2.4 mg/dL, PO4:2.4 mg/dL
   Assessment and Plan
   62F with a history of CAD, s/p CABG for severe LM disease who underwent
   a cardiac catheterization and was admitted to the CCU due to post-cath
   bleeding, found to have a pseudoaneurysm of the femoral artery, now s/p
   surgical removal.
   # HEMATOMA/PSEUDOANEURYSM:  Patient is s/p repair of pseudoaneurysm
   from AM [**2198-11-24**].  Repeat US this am showed continue thrombus in the
   common right femoral vein.  Patient was started on heparin gtt,
   continued oozing from groin site and likely cause of HCT drop.  Need to
   evaluate for RP bleed as well.
   - Continue heparin gtt for thrombus for now.
   - CT of pelvis and thigh to assess for RP bleed to bleeding into thigh
   - no Plavix as no stent
   - transfuse 2 units now, monitor with serial HCTs, active T&S, 2 large
   bore IVs
   - Appreciate vascular consult, will f/u recs.
   - Holding b-blocker until her Hct is stable
   # CORONARIES:  Known 3VD with prior CABG.  After ETT showed apical
   ischemia and a hypokinetic septum, performed for progressive dyspnea,
   underwent cardiac cath which showed patent grafts and had a POBA to the
   distal LAD.
   - Continue aspirin and statin
   - Will hold beta-blocker until her Hct have stabilized.
   # PUMP:  EF of 60% on MIBI done last month.  Not currently in failure.
   # RHYTHM:  In sinus rhythm.
   # HYPOTHYRODISIM:  Continue levothyroxine
   FEN:  Cardiac diet
   ACCESS: PIV's
   PROPHYLAXIS:
   -DVT ppx with pneumatic boots
   -Pain management with tylenol PRN
   -Bowel regimen
   CODE: DNR/DNI; discussed with patient at time of transfer
   DISPO: CCU
   Contact person upon discharge:  [**Name (NI) 484**] [**Name (NI) 2093**] (husband): [**Telephone/Fax (1) 6880**]

2198-11-26 05:51:00 Physician Resident Progress Note
TITLE:
   Chief Complaint:
   24 Hour Events:
   HCT was 21.3 in AM yesterday, d/ced plavix.  She had CT abd/pelvis
   which showed increase in size of hematoma, RP extension and R inguinal
   area, soft tissue gas in R inguinal area. She also has a DVT in R
   femoral (none on left), heparin gtt was discontinued and she received
   IVC filter.  She received total of 3U, HCT improved to 30.1, she then
   received another unit, given early post transfusion HCT check and
   earlier inappropriate HCT response to 2U (21->23 s/p 2U).  Has large
   hematoma on R.  C/O of increased swelling, was examined by intern and
   resident, felt to be unchanged.
   This AM pt. denies any pain, paresthesias, pulses intact distally, and
   RLE is warm.
   Allergies:
   Latex
   Rash; related t
   Last dose of Antibiotics:
   Infusions:
   Other ICU medications:
   Other medications:
   Changes to medical and family history:
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Flowsheet Data as of  [**2198-11-26**] 05:50 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 37.6
C (99.6
   Tcurrent: 36.6
C (97.8
   HR: 76 (75 - 98) bpm
   BP: 113/58(71) {106/47(63) - 131/96(100)} mmHg
   RR: 15 (9 - 19) insp/min
   SpO2: 94%
   Heart rhythm: SR (Sinus Rhythm)
   Height: 60 Inch
   Telemetry: 70s.
   Total In:
                                                                    997 mL
                                                                    255 mL
   PO:
                  TF:
   IVF:
                                                                    177 mL
   Blood products:
                                                                    820 mL
                                                                    255 mL
   Total out:
                                                                  1,370 mL
                                                                    605 mL
   Urine:
                                                                  1,320 mL
                                                                    605 mL
   NG:
   Stool:
   Drains:
                                                                     50 mL
   Balance:
                                                                   -373 mL
                                                                   -350 mL
   Respiratory support
   O2 Delivery Device: None
   SpO2: 94%
   ABG: ////
   Physical Examination
   GENERAL: Middle-aged female lying in bed in NAD. Oriented x3. Mood,
   affect appropriate.
   HEENT: NCAT. Sclera anicteric, less pale.
   CARDIAC: RRR, no MRG
   LUNGS: Patient was breathing comfortably, CTAB
   ABDOMEN: +BS, soft in her upper abdomen, but diffusely TTP,  firmness
   present in her lower abdomen with  TTP over right groin with extension
   into lower pelvis and to midline as well as the LLQ.  Hematoma appears
   overall with minimal change.
   Groin:  The right groin incision intact,  clean and dry, JP drain in
   place w/ serosanguenous fluid.  No obvious bleeding.  EXTREMITIES: No
   c/c/e. No femoral bruits, R thigh significantly swollen but unchaged
   from yesterday w/ echymotic skin exam..
   SKIN: No stasis dermatitis, no ulcers.
   Labs / Radiology
   K/uL
   100 mg/dL
   0.6 mg/dL
   23 mEq/L
   4.2 mEq/L
   9 mg/dL
   106 mEq/L
   136 mEq/L
   30.4 %
        [image002.jpg]
                             [**2198-11-23**]  06:27 AM
                             [**2198-11-23**]  12:49 PM
                             [**2198-11-23**]  11:24 PM
                             [**2198-11-24**]  01:08 AM
                             [**2198-11-24**]  08:14 AM
                             [**2198-11-24**]  12:33 PM
                             [**2198-11-24**]  08:47 PM
                             [**2198-11-25**]  04:21 AM
                             [**2198-11-25**]  04:15 PM
                             [**2198-11-25**]  10:26 PM
   WBC
   6.1
   5.6
   4.7
   Hct
   29.4
   32.9
   25.1
   26.3
   29.7
   28.3
   26.8
   21.5
   23.1
   30.1
   Plt
   162
   179
   170
   Cr
   0.5
   0.6
   0.5
   0.6
   Glucose
   105
   114
   62
   121
   Other labs: PT / PTT / INR:13.1/58.2/1.1
 [**11-25**] data
   Albumin:3.3 g/dL, Ca++:7.2 mg/dL, Mg++:2.2 mg/dL, PO4: 1.7 mg/dL
   CT pelvis:
   Slight interval increase in size of a hematoma in the space of
   Retzius associated with a femoral vascular catheter, with increased
   retroperitoneal component and extension into the right inguinal region
   US -
   1. Focal thrombosis of the right common femoral vein as identified on
   US from
   [**2198-11-23**].
   2. No left leg DVT.
   Assessment and Plan
   62F with a history of CAD, s/p CABG for severe LM disease who underwent
   a cardiac catheterization and was admitted to the CCU due to post-cath
   bleeding, found to have a pseudoaneurysm of the femoral artery, now s/p
   surgical removal.  HC stabilizing.
   # HEMATOMA/PSEUDOANEURYSM:  Patient is s/p repair of pseudoaneurysm
   from [**2198-11-24**], was started on heparin gtt for DVT with continued
   bleeding w/ some extension into retroperitoneum and thigh.  She had a
   IVC filter placed, Plavix was d/ced as was heparin.  HCT now stabilized
   after total of 6U at 30.
   - Dced Plavix as no stent
   - Repeat HCT at 1000, if  HCT stable, can monitor [**Hospital1 **].  Active T&S, 2
   large bore IVs
   - Appreciate vascular consult, will f/u recs.
   - Pt. may OOB to chair today.
   # DVT.  Right femoral DVT in post op setting.  Pt. off heparin now w/
   IVC filter.  This places her at higher risk of IVC thrombosis, but
   given uncertainty whether the bleeding has definitively stopped, will
   not anticoagulate now.
   - Pt. may require OP anticoagulation given IVC filter, this should be
   assessed post ICU setting once HCT is stable.
   # CORONARIES:  Known 3VD with prior CABG.  After ETT showed apical
   ischemia and a hypokinetic septum, performed for progressive dyspnea,
   underwent cardiac cath which showed patent grafts and had a POBA to the
   distal LAD.
   - Continue aspirin and statin
   - Will restart beta-blocker 12.5BID low dose if HCT stable at 1000 and
   SBP > 100mmHg
   # PUMP:  EF of 60% on MIBI done last month.  Not currently in failure.
   # RHYTHM:  In sinus rhythm.
   # HYPOTHYRODISIM:  Continue levothyroxine
   FEN:  Cardiac diet, will d/c foley
   ACCESS: PIV's
   PROPHYLAXIS:
   -DVT ppx with pneumatic boots, pt w/ DVT
   -Pain management with tylenol PRN
   -Bowel regimen
   CODE: DNR/DNI; discussed with patient at time of transfer
   DISPO: CCU for now, if HCT stable o/n can consider transfer to floor.
   Contact person upon discharge:  [**Name (NI) 484**] [**Name (NI) 2093**] (husband): [**Telephone/Fax (1) 6880**]

2198-11-27 05:38:00 Physician Resident Progress Note
TITLE:
   Chief Complaint:
   62F with a history of CAD, s/p CABG for severe LM disease who presented
   today for cardiac, now being transferred to the CCU given worry for
   post-cath bleeding.
   24 Hour Events:
   Patient had continued bleeding on heparin yesterday so an IVC filter
   was placed and her heparin was stopped (she is now only on ASA).  She
   received a total of 4 units of PRBC yesterday.  Her Hct was stable this
   am and at 10 am as well as 8pm at 29.  Her metoprolol was restarted at
   12.5 mg [**Hospital1 **].  She was allowed to eat again.  Vascular removed her JP
   drain, no new recs otherweise.  Her foley was pulled.  Plan was for her
   to ambulate today and possibly be called out to the floor t/m if her
   hct remains stable.
   Allergies:
   Latex
   Rash; related t
   Last dose of Antibiotics:
   Infusions:
   Other ICU medications:
   Other medications:
   Changes to medical and family history:
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Flowsheet Data as of  [**2198-11-27**] 05:37 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 36.9
C (98.4
   Tcurrent: 36.7
C (98.1
   HR: 77 (63 - 90) bpm
   BP: 118/48(61) {106/48(61) - 136/63(80)} mmHg
   RR: 16 (12 - 22) insp/min
   SpO2: 97%
   Heart rhythm: SR (Sinus Rhythm)
   Height: 60 Inch
                  Total In:
                                                                  1,655 mL
                  PO:
                                                                    800 mL
                  TF:
   IVF:
                                                                    600 mL
   Blood products:
                                                                    255 mL
   Total out:
                                                                  2,230 mL
                                                                    350 mL
   Urine:
                                                                  1,980 mL
                                                                    350 mL
   NG:
   Stool:
                                                                    250 mL
   Drains:
   Balance:
                                                                   -575 mL
                                                                   -350 mL
   Respiratory support
   O2 Delivery Device: None
   SpO2: 97%
   ABG: ////
   Physical Examination
   GENERAL: Middle-aged female lying in bed in NAD. Oriented x3. Mood,
   affect appropriate.
   HEENT: NCAT. Sclera anicteric, less pale.
   CARDIAC: RRR, no MRG
   LUNGS: Patient was breathing comfortably, CTAB
   ABDOMEN: +BS, soft in her upper abdomen, but diffusely TTP,  firmness
   present in her lower abdomen with  TTP over right groin with extension
   into lower pelvis and to midline as well as the LLQ.  Hematoma appears
   overall with minimal change.
   Groin:  The right groin incision intact,  clean and dry, JP drain in
   place w/ serosanguenous fluid.  No obvious bleeding.  EXTREMITIES: No
   c/c/e. No femoral bruits, R thigh significantly swollen but unchaged
   from yesterday w/ echymotic skin exam..
   SKIN: No stasis dermatitis, no ulcers.
   Labs / Radiology
   165 K/uL
   11.3 g/dL
   100 mg/dL
   0.6 mg/dL
   23 mEq/L
   4.2 mEq/L
   9 mg/dL
   106 mEq/L
   136 mEq/L
   29.5 %
   5.9 K/uL
        [image002.jpg]
                             [**2198-11-24**]  01:08 AM
                             [**2198-11-24**]  08:14 AM
                             [**2198-11-24**]  12:33 PM
                             [**2198-11-24**]  08:47 PM
                             [**2198-11-25**]  04:21 AM
                             [**2198-11-25**]  04:15 PM
                             [**2198-11-25**]  10:26 PM
                             [**2198-11-26**]  05:20 AM
                             [**2198-11-26**]  10:06 AM
                             [**2198-11-26**]  08:46 PM
   WBC
   5.6
   4.7
   5.9
   Hct
   26.3
   29.7
   28.3
   26.8
   21.5
   23.1
   30.1
   30.4
   30.7
   29.5
   Plt
   179
   170
   165
   Cr
   0.6
   0.5
   0.6
   0.6
   Glucose
   114
   62
   121
   100
   Other labs: PT / PTT / INR:13.1/58.2/1.1, Differential-Neuts:81.0 %,
   Lymph:14.7 %, Mono:2.3 %, Eos:1.9 %, Albumin:3.3 g/dL, Ca++:7.2 mg/dL,
   Mg++:2.2 mg/dL, PO4:1.7 mg/dL
   Assessment and Plan
   62F with a history of CAD, s/p CABG for severe LM disease who underwent
   a cardiac catheterization and was admitted to the CCU due to post-cath
   bleeding, found to have a pseudoaneurysm of the femoral artery, now s/p
   surgical removal.  HC stabilizing.
   # HEMATOMA/PSEUDOANEURYSM:  Patient is s/p repair of pseudoaneurysm
   from [**2198-11-24**], was started on heparin gtt for DVT with continued
   bleeding w/ some extension into retroperitoneum and thigh.  She had a
   IVC filter placed, Plavix was d/ced as was heparin.  HCT now stabilized
   after total of 6U at 30.
   - Dced Plavix as no stent
   - Repeat HCT at 1000, if  HCT stable, can monitor [**Hospital1 **].  Active T&S, 2
   large bore IVs
   - Appreciate vascular consult, will f/u recs.
   - Pt. may OOB to chair today.
   # DVT.  Right femoral DVT in post op setting.  Pt. off heparin now w/
   IVC filter.  This places her at higher risk of IVC thrombosis, but
   given uncertainty whether the bleeding has definitively stopped, will
   not anticoagulate now.
   - Pt. may require OP anticoagulation given IVC filter, this should be
   assessed post ICU setting once HCT is stable.
   # CORONARIES:  Known 3VD with prior CABG.  After ETT showed apical
   ischemia and a hypokinetic septum, performed for progressive dyspnea,
   underwent cardiac cath which showed patent grafts and had a POBA to the
   distal LAD.
   - Continue aspirin and statin
   - Will restart beta-blocker 12.5BID low dose if HCT stable at 1000 and
   SBP > 100mmHg
   # PUMP:  EF of 60% on MIBI done last month.  Not currently in failure.
   # RHYTHM:  In sinus rhythm.
   # HYPOTHYRODISIM:  Continue levothyroxine
   FEN:  Cardiac diet, will d/c foley
   ACCESS: PIV's
   PROPHYLAXIS:
   -DVT ppx with pneumatic boots, pt w/ DVT
   -Pain management with tylenol PRN
   -Bowel regimen
   CODE: DNR/DNI; discussed with patient at time of transfer
   DISPO: CCU for now, if HCT stable o/n can consider transfer to floor.
   Contact person upon discharge:  [**Name (NI) 484**] [**Name (NI) 2093**] (husband): [**Telephone/Fax (1) 6880**]
   ICU Care
   Nutrition:
   Glycemic Control:
   Lines:
   22 Gauge - [**2198-11-25**] 10:00 PM
   Prophylaxis:
   DVT:
   Stress ulcer:
   VAP:
   Comments:
   Communication:  Comments:
   Code status: DNR / DNI
   Disposition: